US05008392
29.7 g (0.1 mol) of dibutyl dichloromaleate, 19.27 g (0.25 mol) of ammonium acetate and 40 ml of dimethylformamide were reacted under the same conditions as described in Example 1. 27.55 g (88.7% yield) of dibutyl aminochloromaleate were obtained as a reddish, viscous liquid (purity according to GC analysis 90%).

reactant | dibutyl dichloromaleate | 0.1 mol, 29.7 g | Cl/C(=C(/C(=O)OCCCC)\Cl)/C(=O)OCCCC | C12H18Cl2O4
reactant | ammonium acetate | 0.25 mol, 19.27 g | C(C)(=O)[O-].[NH4+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | dibutyl aminochloromaleate | 27.55 g, 88.7% yield | N/C(=C(/C(=O)OCCCC)\Cl)/C(=O)OCCCC | C12H20ClNO4
